US07317012B2
1E. Preparation of 6-chloro-3-(2-chlorophenyl)-4-(4-chlorophenyl)pyridazine
A suspension of 6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3(2H)-one (4.1 g, 12.9 mmol) in phosphorus oxychloride (15 mL) was stirred at 95° C. for 1 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was partitioned between EtOAc and saturated aqueous NaHCO3. The separated aqueous layer was extracted with EtOAc (40 mL×2). The combined organic was washed with saturated aqueous NaHCO3, saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure to afford 4.2 g (97%) of the title compound as a pink foam. LC/MS (method A): retention time=3.50 min, (M+H)+=335.

reactant | 6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3(2H)-one | 12.9 mmol, 4.1 g | ClC1=C(C=CC=C1)C=1C(=CC(NN1)=O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O
reactant | phosphorus oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-(2-chlorophenyl)-4-(4-chlorophenyl)pyridazine | 4.2 g, 97% | ClC1=CC(=C(N=N1)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C16H9Cl3N2
